US07700599B2
1,1-Dimethylethyl (2S)-4-{[2-methyl-4-(methylamino)phenyl]methyl}-2-methyl-1-piperazinecarboxylate (D81)
To a mixture of 2-methyl-4-(methylamino)benzaldehyde (D93) (0.397 g) and 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (0.533 g, 2.66 mmol) in 1,2-DCE (35 mL) was added sodium tri(acetoxy)borohydride (0.847 g, 4.00 mmol) and the reaction stirred at room temperature overnight. Saturated aqueous NaHCO3 (30 mL) was added and the mixture was stirred for 4 h. The reaction mixture was extracted with DCM and the organics were dried and concentrated to give the crude product which was purified by column chromatography. Elution with ether/petroleum ether gave the title compound as a colourless oil (0.328 g).

reactant | 2-methyl-4-(methylamino)benzaldehyde | 0.397 g | CC1=C(C=O)C=CC(=C1)NC | C9H11NO
reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 2.66 mmol, 0.533 g | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | sodium tri(acetoxy)borohydride | 4.00 mmol, 0.847 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-DCE | 35 mL | ClCCCl | C2H4Cl2
product | 1,1-Dimethylethyl (2S)-4-{[2-methyl-4-(methylamino)phenyl]methyl}-2-methyl-1-piperazinecarboxylate | 0.328 g | CC1=C(C=CC(=C1)NC)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C19H31N3O2
